US08623889B2
Step 1: N-(7-(6-chloro-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide
A mixture of N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide (300 mg, 1.0 mmol), 6-chloro-4-methylpyridin-3-ylboronic acid (350 mg, 2.1 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (56 mg, 0.08 mmol), and saturated aqueous sodium carbonate (0.5 mL) in acetonitrile (5 mL) was heated under microwave irradiation (Biotage, 200 watts) at 120° C. for 20 minutes. The cooled reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (50 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 12 g, ISCO, 0-75% ethyl acetate in heptane) to afford the title compound as an off-white solid (285 mg, 80%), which was used in the next step without further purification.

reactant | N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide | 1.0 mmol, 300 mg | BrC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C13H11BrN2O
reactant | 6-chloro-4-methylpyridin-3-ylboronic acid | 2.1 mmol, 350 mg | ClC1=CC(=C(C=N1)B(O)O)C | C6H7BClNO2
reactant | sodium carbonate | 0.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.08 mmol, 56 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | N-(7-(6-chloro-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 285 mg, 80% | ClC1=CC(=C(C=N1)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1)C | C19H16ClN3O
